US07687502B2
N-(5-Chloropyrazin-2-yl)-6-[2-fluoro-6-(methylsulfonyl)phenoxy]quinazolin-4-yl-amine
The compound of Example 144 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 1,2-difluoro-3-(methylsulfonyl)benzene, 2-amino-5-chloropyrazine and 4-chloro-6-hydroxy-quinazoline.

reactant | 1,2-difluoro-3-(methylsulfonyl)benzene | FC1=C(C(=CC=C1)S(=O)(=O)C)F | C7H6F2O2S
reactant | 2-amino-5-chloropyrazine | NC1=NC=C(N=C1)Cl | C4H4ClN3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | N-(5-Chloropyrazin-2-yl)-6-[2-fluoro-6-(methylsulfonyl)phenoxy]quinazolin-4-yl-amine | ClC=1N=CC(=NC1)NC1=NC=NC2=CC=C(C=C12)OC1=C(C=CC=C1S(=O)(=O)C)F | C19H13ClFN5O3S
